US07115754B2
Intermediate 16a: [(2S,4R)-1-(1,1′-biphenyl-4-ylcarbonyl)-4-hydroxypyrrolidin-2-yl]acetic acid (Compound of Formula VIII)
To a solution of commercial L-beta-homohydroxyproline hydrochloride (245 mg, 1.35 mmol), triethylamine (1.13 ml, 8.09 mmol) in water (0.8 ml) and tetrahydrofuran (2 ml) at 0° C. under argon, was added dropwise a solution of 4-phenylbenzoyl chloride (438 mg, 2.02 mmol) in tetrahydrofuran (1 ml). The reaction mixture was allowed to warm to room temperature and was stirred 18 hours. It was then diluted with acetone-ethyl acetate (1-2) and washed with HCl 1N. The organic phase was dried (MgSO4) and concentrated to afford a mixture of desired product and 4-phenylbenzoyl acid. A small quantity of acid could be obtained by precipitation with ethyl acetate.

reactant | L-beta-homohydroxyproline hydrochloride | 1.35 mmol, 245 mg | Cl.N1[C@H](CC(=O)O)C[C@@H](O)C1
reactant | triethylamine | 8.09 mmol, 1.13 ml | C(C)N(CC)CC | C6H15N
reactant | 4-phenylbenzoyl chloride | 2.02 mmol, 438 mg | C1(=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO
solvent | water | 0.8 ml | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | acetone ethyl acetate | CC(=O)C.C(C)(=O)OCC
product | [(2S,4R)-1-(1,1′-biphenyl-4-ylcarbonyl)-4-hydroxypyrrolidin-2-yl]acetic acid | C1(=CC=C(C=C1)C(=O)N1[C@@H](C[C@H](C1)O)CC(=O)O)C1=CC=CC=C1 | C19H19NO4
